US07713994B2
A solution of 3-hydroxy-4-nitrobenzaldehyde O-methyloxime (5.9 g, 30 mmol) in ethanol (100 mL) and tetrahydrofuran (100 mL) is degassed with solid carbon dioxide, then charged with 10% palladium on carbon (500 mg) and concentrated hydrochloric acid (5.5 mL). The mixture is shaken under 50 psi hydrogen gas until consumption of hydrogen had ceased. The mixture is then filtered through a pad of diatomaceous earth, and the filtrate is concentrated under reduced pressure to give 2-amino-5-(aminomethyl)phenol dihydrochloride (6.1 g, 97%).

reactant | 3-hydroxy-4-nitrobenzaldehyde O-methyloxime | 30 mmol, 5.9 g | CON=CC1=CC(=C(C=C1)[N+](=O)[O-])O | C8H8N2O4
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | 5.5 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
product | 2-amino-5-(aminomethyl)phenol dihydrochloride | 6.1 g, 97% | Cl.Cl.NC1=C(C=C(C=C1)CN)O | InChI=1S/C7H10N2O.2ClH/c8-4-5-1-2-6(9)7(10)3-5;;/h1-3,10H,4,8-9H2;2*1H
